US05861421
To a solution of 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-ethynylcyclohexan-1-one (0.25 g, 0.8 mmol) and 4-bromo-2-carboxymethylthiophene (0.27 g, 1.2 mmol) in triethylamine (3.5 mL) under an argon atmosphere were added tetrakis(triphenylphosphine)palladium(0) (0.038 g, 4%) and copper(I) iodide (0.010 g, 6%), and the mixture was heated at 80°-85° C. for 0.5 h. Ammonium chloride was added and the mixture was extracted three times with dichloromethane, was dried (magnesium sulfate) and was evaporated. Purification by flash chromatography, eluting with 2:8 ethyl acetate:hexanes, provided 4-(2-carbomethoxythien-4-ylethynyl)-4-(3-cyclopentyloxy-4-methoxyphenylcyclohexan-1-one as a yellow glass (0.15 g, 42%). 1H-NMR (400 MHz, CDCl3) δ 7.81 (d, J=1.3 Hz, 1H), 7.60 (d, J=1.3 Hz, 1H), 7.16 (d, J=2.2 Hz, 1H), 7.10 (dd, J=8.5, 2.2 Hz, 1H), 6.86 (d, J=8.5 Hz, 1H), 4.80 (m, 1H), 3.90 (s, 3H), 3.84 (s, 3H), 2.98 (dt, J=14.8, 5.7 Hz, 2H), 2.48 (br d, J=14.8 Hz, 2H), 3.33 (m, 2H), 2.26 (dt, J=13.6, 4 Hz, 2H), 1.9-2.0 (m, 6H), 1.6 (m, 2H) ppm. Anal. (C26H28O5S) calcd: C, 69.00; H, 6.24; found: C, 68.82; H, 6.04.

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-ethynylcyclohexan-1-one | 0.8 mmol, 0.25 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC(CC1)=O)C#C | C20H24O3
reactant | 4-bromo-2-carboxymethylthiophene | 1.2 mmol, 0.27 g | BrC=1C=C(SC1)CC(=O)O | C6H5BrO2S
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | triethylamine | 3.5 mL | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.038 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.010 g | [Cu]I
product | 3-cyclopentyloxy-4-methoxyphenylcyclohexan-1-one | 0.15 g, 42% | C1(CCCC1)OC=1C=C(C=CC1OC)C1C(CCCC1)=O | C18H24O3
